US05300509
A mixture of 4,6-diamino-2-[2-(4-methoxyphenyl)-ethyl]amino-5-nitrosopyrimidine (13.3 g), absolute ethanol (150 ml) and water (150 ml) was heated almost to reflux. Sodium dithionite was added slowly, portionwise until the red colour disappeared. The mixture was filtered hot. After cooling the solid was removed by filtration, triturated with isopropyl alcohol, and dried to give 2-[2-(4-methoxyphenyl)ethyl]amino-4,5,6-triaminopyrimidine as a solid (8.2 g) m.p. 134°-138° C.; NMR: DMSO-d6 ; 2.65-2.85 (t, 2H, CH2 --CH2), 3.25-3.5 (t, 2H, CH2 --NH), 3.7 (s, 3H, OCH3), 6.45-6.65 (b, 2H, NH2), 6.7-6.85 (b, 1H, NH), 6.8-6.9 (d, 2H, aromatic-H), 7.1-7.25 (d, 2H, aromatic-H). Also 2.8-4.0 (v.br, 4H, 2×NH2).

reactant | 4,6-diamino-2-[2-(4-methoxyphenyl)-ethyl]amino-5-nitrosopyrimidine | 13.3 g | NC1=NC(=NC(=C1N=O)N)NCCC1=CC=C(C=C1)OC | C13H16N6O2
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | Sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 150 ml | O | H2O
product | 2-[2-(4-methoxyphenyl)ethyl]amino-4,5,6-triaminopyrimidine | 8.2 g | COC1=CC=C(C=C1)CCNC1=NC(=C(C(=N1)N)N)N | C13H18N6O
